US04311696
2-(4Nitrophenyl)-3-methylbutyronitrile--by nitration
Into mixed acids (5 ml of 90% nitric acid and 60 ml of concentrated sulfuric acid), held at -2° to -3° with a dry-ice/acetone bath, was dripped 15.92 g of 2-phenyl-3-methylbutyronitrile, causing a very exothermic reaction during the 7-minutes addition period. After an additional 70 minutes at -5° to 0°, the dark reddish orange reaction mixture was poured into excess ice. The thick oil which formed was extracted into butyl chloride, and the butyl chloride extract washed twice each with water and saturated sodium bicarbonate solution. Drying (MgSO4) and evaporation of the butyl chloride solution provided an orange-yellow oil. Vacuum distillation gave 17.1 g of yellow oil, bp 118°-130°/(0.2-0.3 Torr). Crystallization from butyl chloride/hexane provided white 2-(4-nitrophenyl)-3-methylbutyronitrile of m.p. 69°-71°.

reactant | nitric acid | 5 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2-phenyl-3-methylbutyronitrile | 15.92 g | C1(=CC=CC=C1)C(C#N)C(C)C | C11H13N
solvent | sulfuric acid | 60 ml | S(O)(O)(=O)=O | H2O4S
product | 2-(4Nitrophenyl)-3-methylbutyronitrile | 17.1 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C#N)C(C)C | C11H12N2O2
